US05091533
A mixture of 6-[3-(4-cyanophenoxy)propyl]-5-benzyloxy-2-(2-phenylethyl)-2,3-dihydrobenzofuran E22 (1 gm, 2.0 mmoles) and tri-n-butyl tin azide (2.2 gm; 6.6 mmoles) was heated in an oil bath at 125° C. for 90 minutes. The total mixture was chromatographed on silica gel using 1:1 ethyl acetate in hexane and containing 10% acetic acid to yield 1.2 gm of 6-{3-[4-(1H-tetrazol-5-yl)phenoxy]propyl}-5-benzyloxy-2-(2-phenylethyl)-2,3-dihydrobenzofuran, E23.

reactant | 6-[3-(4-cyanophenoxy)propyl]-5-benzyloxy-2-(2-phenylethyl)-2,3-dihydrobenzofuran | C(#N)C1=CC=C(OCCCC2=CC3=C(CC(O3)CCC3=CC=CC=C3)C=C2OCC2=CC=CC=C2)C=C1 | C33H31NO3
reactant | tri-n-butyl tin azide | 6.6 mmoles, 2.2 gm | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
product | 6-{3-[4-(1H-tetrazol-5-yl)phenoxy]propyl}-5-benzyloxy-2-(2-phenylethyl)-2,3-dihydrobenzofuran | 1.2 gm | N1N=NN=C1C1=CC=C(OCCCC2=CC3=C(CC(O3)CCC3=CC=CC=C3)C=C2OCC2=CC=CC=C2)C=C1 | C33H32N4O3
